US06350904B1
Gilman et al., J. Am. Chem. Soc. 1940, 62, 2327f. describes the synthesis of benzoic acid derivatives by lithiation of the corresponding aryl bromides and subsequent carboxylation. The preparation of 2-methylbenzoic acid by reaction of o-bromotoluene with n-butyllithium and subsequent carboxylation with solid CO2 achieves a yield of 83.8%. The reaction of 4-chlorobromobenzene with n-butyllithium and CO2 gives 4-chlorobenzoic acid with a 90% yield.

reactant | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | 2-methylbenzoic acid | CC1=C(C(=O)O)C=CC=C1 | C8H8O2
reactant | o-bromotoluene | BrC1=C(C=CC=C1)C | C7H7Br
reactant | n-butyllithium | C(CCC)[Li]
reactant | CO2 | C(=O)=O | CO2
reactant | 4-chlorobromobenzene | ClC1=CC=C(C=C1)Br | C6H4BrCl
product | 4-chlorobenzoic acid | 90% yield | ClC1=CC=C(C(=O)O)C=C1 | C7H5ClO2
